US06800651B2
To a −78° C. solution of N-(4-methoxycarbonylphenyl) pyrid-3-ylmethylamine (105 g, 0.433 moles, leg) in THF (17 volumes) was added slowly DIBAl-H (1M in toluene, 1084 mL, 1.084 moles, 2.5 eq,) and held cold for 1 hour. The reaction was then allowed to warm to 0° C. for 2 h. The reaction was carefully quenched with methanol (1.8 eq). It was then diluted with ether (62 volumes) and Saturated Rochelle's salt (37 volumes) and stirred vigorously overnight. The layers were separated and the aqueous extracted with EtOAc. The combined organics were washed with brine, dried with MgSO4, filtered, and concentrated to give N-(4-hydroxymethylphenyl)pyrid-3-ylmethylamine (88.2 g, 95% Yield).

reactant | N-(4-methoxycarbonylphenyl) pyrid-3-ylmethylamine | 0.433 moles, 105 g | COC(=O)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C14H14N2O2
reactant | DIBAl-H | 1.084 moles, 1M, 1084 mL, 2.5 eq | CC(C)C[AlH]CC(C)C
reactant | methanol | 1.8 eq | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | N-(4-hydroxymethylphenyl)pyrid-3-ylmethylamine | 88.2 g, 95% Yield | OCC1=CC=C(C=C1)NCC=1C=NC=CC1 | C13H14N2O
